US05053416
1-methyl-3-(5-methyloxazol-2-yl)-pyridinium iodide.
5 g of 3-(5-methyloxazol-2-yl)-pyridine prepared as indicated in Chimica Therap 4, 437 (1973) is dissolved in 50 cm3 of ethanol, 3 cm3 of iodomethane is added and the whole is heated under reflux for 10 hours. After cooling and decanting, ether is added, and after filtering, 8.68 g of product is obtained. M.p.=147°-148° C., after crystallization from ethanol.

reactant | 3-(5-methyloxazol-2-yl)-pyridine | 5 g | CC1=CN=C(O1)C=1C=NC=CC1 | C9H8N2O
reactant | iodomethane | 3 cm3 | IC | CH3I
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | 1-methyl-3-(5-methyloxazol-2-yl)-pyridinium iodide | 8.68 g | [I-].C[N+]1=CC(=CC=C1)C=1OC(=CN1)C | InChI=1S/C10H11N2O.HI/c1-8-6-11-10(13-8)9-4-3-5-12(2)7-9;/h3-7H,1-2H3;1H/q+1;/p-1
